US08729263B2
To 50 mL flask was added 2,2,6,6-tetramethyl-4-methylenepiperidine 2,2,2-trifluoroacetate (1.1 g, 4.12 mmol) and 9-BBN (0.5 M in THF) (16.5 mL, 8.23 mmol) and the reaction mixture was heated at 65° C. for 1 h. The reaction was cooled to RT and 3,5-dichloropyridazine (0.61 g, 4.12 mmol), K2CO3 (1.7 g, 12.35 mmol), and PdCl2(dppf).CH2Cl2 (0.17 g, 0.21 mmol) in 1,4-dioxane (8.5 mL)/H2O (1.7 mL) were added and heated at 60° C. overnight. The reaction mixture was cooled to RT, diluted with EtOAc, filtered through celite and concentrated in vacuo. The crude material was adjusted to pH 3 using 12 M HCl aqueous solution and loaded onto an SCX column. The crude material was washed with methanol then eluted with 2 N ammonia in methanol. The product-containing fractions were concentrated to afford 3-chloro-6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazine (1.1 g) MS [M+H+]=268.2.

reactant | 2,2,6,6-tetramethyl-4-methylenepiperidine 2,2,2-trifluoroacetate | 4.12 mmol, 1.1 g | FC(C(=O)O)(F)F.CC1(NC(CC(C1)=C)(C)C)C
reactant | 9-BBN | 8.23 mmol, 0.5 M, 16.5 mL | B1C2CCCC1CCC2 | C8H15B
reactant | 3,5-dichloropyridazine | 4.12 mmol, 0.61 g | ClC=1N=NC=C(C1)Cl | C4H2Cl2N2
reactant | K2CO3 | 12.35 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.21 mmol, 0.17 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 8.5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 1.7 mL | O | H2O
product | 3-chloro-6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazine | 1.1 g | ClC=1N=NC(=CC1)CC1CC(NC(C1)(C)C)(C)C | C14H22ClN3
